US04277607
672 g of acrylic acid were added to 500 g of o-trifluoromethylaniline at 20°-25° C. with stirring while bubbling nitrogen therethrough and then 0.5 g of hydroquinone were added thereto in the dark. The mixture was heated to 75° C. over one hour and was then held at 75° C. for 32 hours. The mixture was cooled to 65°-70° C. and 500 ml of technical cyclohexane and 500 ml ofdemineralized water were rapidly added thereto. The mixture was refluxed for 10 minutes and was then slowly cooled to 2° to 4° C. andheld there for one hour. The mixture was vacuum filtered and the recovered crystals were washed and dried to obtain 636.7 g of β-(o-trifluoromethylanilino)-propanoic acid.

reactant | acrylic acid | 672 g | C(C=C)(=O)O | C3H4O2
reactant | o-trifluoromethylaniline | 500 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
product | β-(o-trifluoromethylanilino)-propanoic acid | 636.7 g | FC(C1=C(NCCC(=O)O)C=CC=C1)(F)F | C10H10F3NO2
